US07598264B2
Step 5: Ethyl 6-(4-fluorobenzyl)-4-methoxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate
To a solution of chloroform (10 mL) and methanol (10 mL) was added trimethylsilyl diazomethane (2.0 M in hexanes, 5 mL, 0.01 mole). After stirring for 10 minutes at room temperature, ethyl 6-(4-fluorobenzyl)-4-hydroxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate (1.6 g, 3.5 mmol) in chloroform was added. After 7 hours, methanol (5 mL) and trimethylsilyl diazomethane (2.5 mL, 0.005 mole) was added to the reaction mixture. After 1 hour, glacial acetic acid (3 mL) was added with gas evolution observed. The solution was stirred for 0.5 hour. The product mixture was concentrated under vacuum. The residual material was subjected to column chromatography on silica gel eluting with 0-100% ethyl acetate in hexanes. The appropriate fractions were combined and concentrated to afford the title compound as a foam.

reactant | methanol | 10 mL | CO | CH4O
reactant | trimethylsilyl diazomethane | 0.01 mole, 2.0 M, 5 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | ethyl 6-(4-fluorobenzyl)-4-hydroxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate | 3.5 mmol, 1.6 g | FC1=CC=C(CN2C(C=3C(=CN=C(C3CC2)C(=O)OCC)O)=O)C=C1 | C18H17FN2O4
reactant | methanol | 5 mL | CO | CH4O
reactant | trimethylsilyl diazomethane | 0.005 mole, 2.5 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 6-(4-fluorobenzyl)-4-methoxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate | FC1=CC=C(CN2C(C=3C(=CN=C(C3CC2)C(=O)OCC)OC)=O)C=C1 | C19H19FN2O4
